data/mechanisms/records/IMS4-EQ4.3b.json
{"mechanism_id": "IMS4-EQ4.3b", "species": [{"species_id": "propane_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][CH3:3]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethyl_radical", "mapped_smiles": "[CH3:1][CH2:2]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methyl_cation", "mapped_smiles": "[CH3+:3]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["propane_radical_cation"]}, {"state_id": "state_products", "species_ids": ["ethyl_radical", "methyl_cation"]}], "steps": [{"step_id": "step_sigma_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "sigma_dissociation", "semantics": "net_fragmentation", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "external", "atom_maps": []}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_sigma_cleavage", "support_type": "textbook_proposed", "locator": {"page": 54, "equation": "4.3", "figure": null, "panel": null, "section": "4.4"}, "confidence": 0.9, "curator_note": "Eq 4.3, path (b): ethyl radical + methyl cation (less favored). Section 4.4 classification illustration: an odd-electron (OE+.) molecular ion cleaving ONE C-C bond gives an even-electron (EE+) fragment ion + a neutral radical. The book draws STRAIGHT reaction arrows only (arcs_drawn=0); the two electron_moves are the implied sigma homolysis, not drawn fishhooks. Propane has two equivalent C-C bonds; C2-C3 chosen. No m/z or intensity is printed (competing paths, 'equal only by coincidence', Stevenson's Rule)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 44.0621, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_ch3", "species_id": "methyl_cation", "step_id": "step_sigma_cleavage", "observed_mz": 15.0229, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
